US04705853
2-(2-Chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-thione
To 30 ml of acetonitrile was added 1.25 g (0.004 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-one and 0.92 g (0.002 mole) of phosphorus pentasulfide and the reaction mixture heated to reflux for 4 hr. After cooling, 30-40 ml of toluene was added and the mixture filtered. The filtrate was washed with 3×50 ml of saturated potassium carbonate, charcoaled, filtered, and concentrated by rotary evaporation. The residue was crystallized from isopropyl ether to give 0.65 g (50%) of yellow, analytically pure crystals, m.p., 146°-48° C.

reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-one | 0.004 mole, 1.25 g | ClCCC1OC2=C(C(N(C1)C)=O)C=C(C=C2)C(F)(F)F | C13H13ClF3NO2
reactant | phosphorus pentasulfide | 0.002 mole, 0.92 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 30-40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=C(C=C2)C(F)(F)F | C13H13ClF3NOS
